US09233979B2
(R)-1-(3-(1,3-Dioxoisoindolin-2-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (229 mg, 0.342 mmol) was dissolved in DCM (2 mL), charged with TFA (660 μL, 8.56 mmol) and triethylsilane (54.7 μL, 0.342 mmol), and stirred at room temperature for 30 min. The solvents were concentrated in vacuo and the residue was treated with triethylamine (1 mL). Purification via flash chromotagraphy (10-100% EtOAc/DCM) afforded (R)-1-(3-(1,3-dioxoisoindolin-2-yl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea. MS ESI calc'd. for C23H18N6O3 [M+1]+ 427. found 427.

reactant | (R)-1-(3-(1,3-Dioxoisoindolin-2-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.342 mmol, 229 mg | O=C1N(C(C2=CC=CC=C12)=O)C1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C42H32N6O3
reactant | TFA | 8.56 mmol, 660 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 0.342 mmol, 54.7 μL | C(C)[SiH](CC)CC | C6H16Si
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(3-(1,3-dioxoisoindolin-2-yl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | O=C1N(C(C2=CC=CC=C12)=O)C1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2 | C23H18N6O3
